US07214677B2
C: 2-Chloro-5-(5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid
A solution of 1-formyl-4-(2-chloro-5-carbomethoxyphenyl)semicarbazide (0.03 g, 0.11 mmol) in 1.0 M KOH in methanol (MeOH) (0.44 mL) was heated at 80° C. for 72 hours and cooled to room temperature. 1.0 N HCl (0.8 mL) was added and the mixture evaporated to dryness in vacuo. The residue was taken up in MeOH (1.5 mL) and filtered. The filtrate was concentrated in vacuo to yield 0.028 g (100%) of the title intermediate as an amorphous solid. Mass Spectrum (M−H): 3:1 ratio of 238 and 240.

reactant | 1-formyl-4-(2-chloro-5-carbomethoxyphenyl)semicarbazide | 0.11 mmol, 0.03 g | C(=O)NNC(=O)NC1=C(C=CC(=C1)C(=O)OC)Cl | C10H10ClN3O4
reactant | HCl | 1.0 N, 0.8 mL | Cl | ClH
solvent | KOH | 1.0 M | [OH-].[K+]
solvent | methanol | 0.44 mL | CO | CH4O
product | 2-Chloro-5-(5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid | 0.028 g, 100% | ClC1=C(C(=O)O)C=C(C=C1)N1C=NNC1=O | C9H6ClN3O3
